US09403805B2
(2S,4S)-1-Cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid benzylamide was prepared from (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester and benzylamine in an analogous manner to example 12. MS calcd. for C30H36N3O3 [(M+H)+] 486.0, obsd. 486.4.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C24H30N2O4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (2S,4S)-1-Cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CC1CCCCC1 | C30H35N3O3
